US06949579B2
N-[5-(4-fluorophenyl)-6-chloro-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide
470 mg of 4-fluorophenylboronic acid, 593 mg of sodium carbonate in 40 cm3 of water and 155 mg of tetrakis(triphenylphosphine)palladium are added to 1 g of N-[5-bromo-6-chloro-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide, described in Example 58, in 40 cm3 of dioxane. The mixture is refluxed for 18 hours and the reaction medium is filtered through a sinter funnel packed with Celite. 60 cm3 of ethyl acetate and 50 cm3 of distilled water are added to the filtrate. The organic phase is washed with 2×20 cm3 of saturated aqueous sodium chloride solution and then separated out after settling of the phases has taken place and dried over magnesium sulphate. After filtration, the filtrate is concentrated to dryness under reduced pressure (2 kPa; 50° C.) and the residue is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 4.5 cm), eluting with a cyclohexane/ethyl acetate mixture (90/10 by volume). The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.). After drying (90 Pa; 45° C.), 0.75 g of N-[5-(4-fluorophenyl)-6-chloro-1-[(2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide is thus obtained in the form of a yellow wax.

reactant | 4-fluorophenylboronic acid | 470 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 593 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-[5-bromo-6-chloro-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 1 g | BrC=1C=C2C(=NN(C2=CC1Cl)COCC[Si](C)(C)C)NC(CCC)=O | C17H25BrClN3O2Si
solvent | water | 40 cm3 | O | H2O
solvent | dioxane | 40 cm3 | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 155 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[5-(4-fluorophenyl)-6-chloro-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | FC1=CC=C(C=C1)C=1C=C2C(=NN(C2=CC1Cl)COCC[Si](C)(C)C)NC(CCC)=O | C23H29ClFN3O2Si
